US07034039B2
A solution of tert-butyl(4-butoxy-6-hydroxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.52 g, 1.2 mmol), 1-bromopropane (0.16 ml, 1.2 mmol) and potassium carbonate (0.16 g, 1.2 mmol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 12 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl(4-butoxy-2-neopentyl-1-oxo-6-propoxy-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.50 g, 89.3%) as an amorphous.

reactant | tert-butyl(4-butoxy-6-hydroxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 1.2 mmol, 0.52 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)O)=O)CC(C)(C)C)=O | C24H36N2O5
reactant | 1-bromopropane | 1.2 mmol, 0.16 ml | BrCCC | C3H7Br
reactant | potassium carbonate | 1.2 mmol, 0.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | tert-butyl(4-butoxy-2-neopentyl-1-oxo-6-propoxy-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 0.50 g, 89.3% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)OCCC)=O)CC(C)(C)C)=O | C27H42N2O5
